US08119633B2
Methyl 2-(2-(3,4-dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetate
2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid methyl ester (7.49 g, 36.5 mmol) was dissolved in DCM (200 ml), and triethylamine (11.7 ml, 83 mmol) was added thereto. The reaction solution was cooled to 0° C., and a solution of 3,4-dichlorobenzenesulfonyl chloride (8.14 g, 33.2 mmol) in DCM (100 ml) was added dropwise. After 3 h, 0.5 M HCl (100 ml) was added. After phase separation, the organic phase was washed with water, dried (sodium sulfate) and concentrated. Purification was carried out by column chromatography on silica gel (heptane/ethyl acetate 4:1).

reactant | 2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid methyl ester | 36.5 mmol, 7.49 g | COC(CC1NCCC2=CC=CC=C12)=O | C12H15NO2
reactant | triethylamine | 83 mmol, 11.7 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 33.2 mmol, 8.14 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | HCl | 0.5 M, 100 ml | Cl | ClH
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-(3,4-dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(C2=CC=CC=C2CC1)CC(=O)OC | C18H17Cl2NO4S
